US07732461B2
3-Chloro-4-[((3R,4S)-3-hydroxy-4-{[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one hydrochloride
The free base of the title compound was synthesised from racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde (for a synthesis see WO2003087098, Example 301(d)) according to the general method of Example 2(h), in 49% yield.

reactant | racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | N[C@@H]1[C@@H](CN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)Cl)O | C16H19ClN4O2
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
product | 3-Chloro-4-[((3R,4S)-3-hydroxy-4-{[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one hydrochloride | 49% yield | Cl.ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3C[C@H]([C@H](CC3)NCC=3C=CC=1SCC(NC1N3)=O)O)=O | InChI=1S/C24H25ClN6O3S.ClH/c25-15-8-27-17-2-4-21(34)31-10-13(22(15)23(17)31)9-30-6-5-16(18(32)11-30)26-7-14-1-3-19-24(28-14)29-20(33)12-35-19;/h1-4,8,13,16,18,26,32H,5-7,9-12H2,(H,28,29,33);1H/t13?,16-,18+;/m0./s1
